US07074819B2
Step 4) Synthesis of 4-(9-hydroxynonyl)-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylchroman
4-[9-(t-Butyldimethylsilyloxy)nonyl]-7-methoxymet hoxy-3-(4-methoxymethoxyphenyl)-3-methylchroman (1.34 g, 2.23 mmol) was dissolved in ethanol (70 ml), and pyridinium ptoluenesulfonate (426 mg, 1.70 mmol) was added thereto. The reaction mixture was stirred at room temperature for 10 hours, water was added, and the resulting mixture was extracted with ethyl acetate. The organic layer was separated, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to flash chromatography on silica gel (n-hexane:ethyl acetate=7:3 and 1:1) to give the title compound (831 mg, yield 77%) as a colorless oil. In this reaction, 247 mg (18%) of the unreacted starting compound was recovered.

reactant | 4-[9-(t-Butyldimethylsilyloxy)nonyl]-7-methoxymet hoxy-3-(4-methoxymethoxyphenyl)-3-methylchroman | 2.23 mmol, 1.34 g | [Si](C)(C)(C(C)(C)C)OCCCCCCCCCC1C(COC2=CC(=CC=C12)OCOC)(C)C1=CC=C(C=C1)OCOC | C35H56O6Si
reactant | pyridinium | 1.70 mmol, 426 mg | [NH+]1=CC=CC=C1
reactant | water | O | H2O
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 4-(9-hydroxynonyl)-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylchroman | 831 mg, yield 77% | OCCCCCCCCCC1C(COC2=CC(=CC=C12)OCOC)(C)C1=CC=C(C=C1)OCOC | C29H42O6
